US03993683
The difficultly soluble isomer of [1-(2'-fluoro-4-biphenylyl)-ethylsulfinyl]-acetic acid dimethylamide was prepared analogous to Example 51 from [1-(2'-fluoro-4 -biphenylyl)-ethylthio]-acetic acid dimethylamide by oxidation with hydrogen peroxide in glacial acetic acid. Yield: 57% of theory; m.p. 131°-133° C (from toluene)

reactant | [1-(2'-fluoro-4 -biphenylyl)-ethylthio]-acetic acid dimethylamide | CN(C(CSC(C)C1=CC=C(C=C1)C1=C(C=CC=C1)F)=O)C | C18H20FNOS
reactant | hydrogen peroxide | OO | H2O2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | [1-(2'-fluoro-4-biphenylyl)-ethylsulfinyl]-acetic acid dimethylamide | Yield: 57% | CN(C(CS(=O)C(C)C1=CC=C(C=C1)C1=C(C=CC=C1)F)=O)C | C18H20FNO2S
